US07598423B2
Synthesis of 3-[hydroxy-(4-triisopropylsilanyloxymethyl-phenyl)-methyl]-benzonitrile
Stir a solution of (4-bromo-benzyloxy)-triisopropyl-silane (72 g, 209.7 mmol) and tetrahydrofuran (500 mL) at −78° C. Add a 1.6 M solution of n-butyllithium in hexanes (143 mL) over 10 min. After addition, allow the reaction mixture to reach −20° C. and stir for 5 minutes. Cool the reaction mixture to −78° C. In another flask, stir a solution of 3-cyanobenzaldehyde (25 g, 190.6 mmol) and tetrahydrofuran (250 mL) at −78° C. Add the lithium anion solution to the aldehyde solution via large cannula at a rate such that the internal aldehyde temperature does not rise above −50° C. After addition is complete, stir the reaction mixture 18 hours at room temperature. Dilute the reaction mixture with aqueous saturated ammonium chloride (500 mL) and ethyl acetate (200 mL). Separate the layers, and extract the aqueous layer with ethyl acetate (3×100 mL). Combine the organic layers, dry over anhydrous magnesium sulfate, filter, and concentrate. Purify the residue via silica gel chromatography eluting with hexanes to 9:1 hexanes:ethyl acetate to afford the title compound (56.1 g, 75%) as a colorless oil. LCMS (m/z) 396 M+1.

reactant | (4-bromo-benzyloxy)-triisopropyl-silane | 209.7 mmol, 72 g | BrC1=CC=C(CO[Si](C(C)C)(C(C)C)C(C)C)C=C1 | C16H27BrOSi
reactant | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
reactant | n-butyllithium | C(CCC)[Li]
reactant | 3-cyanobenzaldehyde | 190.6 mmol, 25 g | C(#N)C=1C=C(C=O)C=CC1 | C8H5NO
reactant | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
solvent | ammonium chloride | 500 mL | [Cl-].[NH4+]
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 3-[hydroxy-(4-triisopropylsilanyloxymethyl-phenyl)-methyl]-benzonitrile | 56.1 g, 75% | OC(C=1C=C(C#N)C=CC1)C1=CC=C(C=C1)CO[Si](C(C)C)(C(C)C)C(C)C | C24H33NO2Si
